US04800199
(6R-trans)-3-[(Acetyloxy)methyl]-7-[(4-methyl-2-thiazolyl)amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, diphenylmethyl ester
A mixture of 91 mg of (6R-trans)-3-[(acetyloxyl)methyl]-7-[(aminothioxomethyl)amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, diphenylmethyl ester, 33 mg of sodium iodide, 20 mg of potassium carbonate and 2 ml of acetonitrile was reacted as described in Example 2, giving the desired compound.

reactant | (6R-trans)-3-[(acetyloxyl)methyl]-7-[(aminothioxomethyl)amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, diphenylmethyl ester | 91 mg | C(C)(=O)OCC1=C(N2C([C@H]([C@H]2SC1)NC(=S)N)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C24H23N3O5S2
reactant | sodium iodide | 33 mg | [I-].[Na+]
reactant | potassium carbonate | 20 mg | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 2 ml | C(C)#N | C2H3N
product | (6R-trans)-3-[(Acetyloxy)methyl]-7-[(4-methyl-2-thiazolyl)amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, diphenylmethyl ester | C(C)(=O)OCC1=C(N2C([C@H]([C@H]2SC1)NC=1SC=C(N1)C)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C27H25N3O5S2
